US03989724
A sample of the crude 11,11-ethylenedioxy-3,7-dihydroxy-1-dodecene (10 g.; prepared as described above) was dissolved in dichloroethane (250 ml.), and to this solution activated manganese dioxide (60 g.) was added. The mixture was stirred for 1 hour at room temperature, filtered, and the filter cake washed 3 times, each time with 250 ml. of dichloroethane. Concentration of the combined filtrate afforded crude 11,11-ethylenedioxy-7-hydroxy-1-dodecen-3-one.

reactant | 11,11-ethylenedioxy-3,7-dihydroxy-1-dodecene | 10 g | C1OC(CCCC(CCCC(C=C)O)O)(C)OC1 | C14H26O4
solvent | dichloroethane | 250 ml | ClC(C)Cl | C2H4Cl2
catalyst | manganese dioxide | 60 g | [O-2].[O-2].[Mn+4]
product | 11,11-ethylenedioxy-7-hydroxy-1-dodecen-3-one | C1OC(CCCC(CCCC(C=C)=O)O)(C)OC1 | C14H24O4
